US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.123 g, 0.443 mmol) was reacted with N-(2-azidoethyl)-4-butylbenzamide (0.109 g, 0.443 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(4-butylbenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.67 (s, 1H0, δ 7.67 (d, 2H), δ 7.29 (s, 1H), δ 7.11 (d, 2H), δ 6.42 (s, 1H), δ 6.25 (s, 2H), δ 4.48 (s, 2H), δ 3.83 (s, 2H), δ 2.56 (t, 4H), δ 2.21 (s, 2H), 1.47 (m, 13H), δ 1.21 (m, 4H), δ 0.83 (t, 3H) ppm; 13C NMR (75 MHz, CDCl3) δ168.3, 140.6, 149.5, 148.2, 147.1, 138.4, 131.5, 128.7, 127.4, 122.2, 106.4, 84.9, 49.4, 40.2, 35.7, 33.5, 29.2, 28.9, 28.3, 28.1, 27.9, 25.5, 22.4, 14.1 ppm; HRMS (ESI) calcd for C28H41N7O3 (M+) 523.3271. found 523.3261, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-4-butylbenzamide hydrochloride (0.191 g, 94% yield). 1H NMR (300 MHz, CD3OD) δ 8.43 (s, 1H), δ 7.69 (s, 2H), δ 7.22 (s, 2H), δ 6.44 (s, 1H), δ 4.73 (s, 2H), δ 3.89 (s, 2H), δ 3.34 (s, 2H), δ 2.59 (s, 4H), δ 2.41 (s, 2H), δ 1.54 (s, 4H), δ 1.29 (s, 4H), δ 0.88 (t, 3H) ppm; 13C NMR (75 MHz, CD3OD) δ 169.2, 165.1, 160.3, 158.1, 147.4, 141.4, 131.2, 128.5, 127.7, 127.3, 126.9, 92.9, 39.6, 36.3, 33.4, 30.9, 28.0, 27.7, 24.1, 22.2, 13.2, 12.1, 10.9, 8.9, 6.2, 2.5 ppm; HRMS (ESI) calcd for C23H33N7O (M+) 423.2747. found 423.2738.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.443 mmol, 0.123 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)-4-butylbenzamide | 0.443 mmol, 0.109 g | N(=[N+]=[N-])CCNC(C1=CC=C(C=C1)CCCC)=O | C13H18N4O
product | tert-butyl 2-amino-4-(5-(1-(2-(4-butylbenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(C1=CC=C(C=C1)CCCC)=O)C(=O)OC(C)(C)C | C28H41N7O3
